US04552876
1,6-Bis[2H-1,4-benzoxazine-3(4H)-one-6yl]hexane
To a suspension of 2.1 g (0.007 mol) of 1,6-bis(3-amino-4-hydroxyphenyl)hexane in 10 ml of isobutyl methyl ketone was added 3.0 g (0.0357 mole) of sodium bicarbonate and 10 ml of water. The suspension was stirred in an ice bath and 1.9 g (0.016 mole) of chloroacetyl chloride was added dropwise. The reaction was carried out in a manner similar to that in Example 23 to yield 1.0 g of product of m.p. 219°-225° C.

reactant | 1,6-bis(3-amino-4-hydroxyphenyl)hexane | 0.007 mol, 2.1 g | NC=1C=C(C=CC1O)CCCCCCC1=CC(=C(C=C1)O)N | C18H24N2O2
reactant | sodium bicarbonate | 0.0357 mole, 3.0 g | C([O-])(O)=O.[Na+]
reactant | water | 10 ml | O | H2O
reactant | chloroacetyl chloride | 0.016 mole, 1.9 g | ClCC(=O)Cl | C2H2Cl2O
reactant | isobutyl methyl ketone | 10 ml | CC(=O)CC(C)C | C6H12O
product | 1,6-Bis[2H-1,4-benzoxazine-3(4H)-one-6yl]hexane | 1.0 g | O1CC(NC2=C1C=CC(=C2)CCCCCCC=2C=CC1=C(NC(CO1)=O)C2)=O | C22H24N2O4
